US07384934B2
2-Amino-5-cyclopropyl-benzonitrile
Combine 2-amino-5-bromo-benzonitrile (1.76 g, 8.95 mmol), cyclopropyl boronic acid (1.0 g, 11.64 mmol), tricyclohexylphosphine (0.251 g, 0.89 mmol) and potassium phosphate (6.65 g, 31.26 mmol) in a mixture of toluene (40 ml) and water (2 ml) and stir the mixture for 10 minutes. Add palladium acetate (0.101 g, 0.45 mmol) and heat the mixture to 100° C. After 3 hours add more tricyclohexylphosphine (0.251 g, 0.89 mmol) and palladium acetate (0.101 g, 0.45 mmol). After an additional 3 hours at 100° C., add 20 ml of water and extract the mixture three times with 50 ml of ethyl acetate. Combine the organic layers, dry over sodium sulfate and concentrate. Purify the residue using flash chromatography and eluting with a linear gradient starting with 100% hexanes and going to 70% hexanes: 30% ethyl acetate to obtain 0.988 g of the title compound (6.24 mmol, 70% yield) as a clear yellow oil: Mass spectrum (m/e): 159(M+1).

reactant | 2-amino-5-bromo-benzonitrile | 8.95 mmol, 1.76 g | NC1=C(C#N)C=C(C=C1)Br | C7H5BrN2
reactant | cyclopropyl boronic acid | 11.64 mmol, 1.0 g | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 0.89 mmol, 0.251 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 31.26 mmol, 6.65 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 0.89 mmol, 0.251 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 ml | O | H2O
catalyst | palladium acetate | 0.45 mmol, 0.101 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.45 mmol, 0.101 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-5-cyclopropyl-benzonitrile | 6.24 mmol, 0.988 g, 70% yield | NC1=C(C#N)C=C(C=C1)C1CC1 | C10H10N2
